US07700655B2
(2) N-[3,5-Bis(trifluoromethyl)phenyl]-5-(2,2-dicyanoethen-1-yl)-2-hydroxybenzamide (Compound No. 60)
Using 5-(2,2-dicyanoethen-1-yl)-2-hydroxybenzoic acid and 3,5-bis(trifluoromethyl)aniline as the raw materials, the same operation as the Example 16 gave the title compound.

reactant | 5-(2,2-dicyanoethen-1-yl)-2-hydroxybenzoic acid | C(#N)C(=CC=1C=CC(=C(C(=O)O)C1)O)C#N | C11H6N2O3
reactant | 3,5-bis(trifluoromethyl)aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]-5-(2,2-dicyanoethen-1-yl)-2-hydroxybenzamide | Yield: 9.1% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)C=C(C#N)C#N)O)=O)(F)F | C19H9F6N3O2
